US04474692
2-Indanone (40 g) is dissolved in 300 ml of methanol, 78 g of glycine tert-butyl ester phosphite and 150 g of water are added, and then 23 g of sodium cyanoborohydride is added over 15 minutes with ice cooling and stirring. The resulting mixture is further stirred at room temperature for 4 hours. To the reaction mixture, 400 ml of 20% phosphoric acid is added portionwise over an hour, 200 ml of water is then added, the mixture is stirred for 30 minutes and then extracted with 800 ml of ethyl ether, and the aqueous layer is adjusted to pH 10 with 20% sodium hydroxide and extracted with 4 portions (500 ml in total) of chloroform. The extract is dried over anhydrous sodium sulfate and then distilled under reduced pressure. 50 ml of ethanol and then 150 ml of water are added to the oil obtained, and the mixture is cooled. The crystalline precipitate is collected by filtration and recrystallized twice from aqueous ethanol to give 47 g of (indan-2-yl)glycine tert-butyl ester as colorless prisms melting at 54°-55° C.

reactant | 2-Indanone | 40 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | glycine tert-butyl ester phosphite | 78 g | P(O)(O)O.C(C)(C)(C)OC(CN)=O
reactant | sodium cyanoborohydride | 23 g | C(#N)[BH3-].[Na+]
reactant | phosphoric acid | 400 ml | P(O)(O)(O)=O | H3O4P
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
solvent | water | 150 g | O | H2O
product | (indan-2-yl)glycine tert-butyl ester | 47 g | C(C)(C)(C)OC(CNC1CC2=CC=CC=C2C1)=O | C15H21NO2
